US07605176B2
VI.1.d: 3-chloro-4-(2-diethylaminoethyl)phenylamine
2.00 g (7.79 mmol) of [2-(2-chloro-4-nitrophenyl)ethyl]diethylamine (VI.1.c) is dissolved in 50 mL of THF and hydrogenated for 2.5 hours at ambient temperature at a pressure of 25 psi with hydrogen and 0.8 g of Raney nickel as catalyst. Then the catalyst is filtered off and the solvent is eliminated. Yield: 1.80 g (100% of theory); Rf value: 0.45 (Alox, petroleum ether/ethyl acetate=1:1); C12H19ClN2; EII mass spectrum: m/z=227/229 [M+H]+.

reactant | [2-(2-chloro-4-nitrophenyl)ethyl]diethylamine | 7.79 mmol, 2.00 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])CCN(CC)CC | C12H17ClN2O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.8 g | [Ni] | Ni
product | 3-chloro-4-(2-diethylaminoethyl)phenylamine | ClC=1C=C(C=CC1CCN(CC)CC)N | C12H19ClN2
